US05457105
Using an analogous procedure to that described in Example 16, 6-amino-4-(3'-methylanilino)quinazoline was reacted with 2-bromoethyl methyl ether to give 6-(2-methoxyethylamino)-4-(3'-methylanilino)quinazoline in 20% yield, m.p. 163°-167° C.

reactant | 6-amino-4-(3'-methylanilino)quinazoline | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)C | C15H14N4
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | 6-(2-methoxyethylamino)-4-(3'-methylanilino)quinazoline | 20% yield | COCCNC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)C | C18H20N4O
